US04579981
To a solution of 1,3-dimethoxybenzene (13.8 g) in 1,2-dimethoxyethane (100 ml) is added 2.6M n-butyllithium (40 ml). After 40 minutes, N-chlorosuccinimide (13.5 g) is added and the reaction temperature is maintained below 55° C. by means of an ice-bath. After an additional 45 minutes, the reaction mixture is poured into water and extracted with ether. Evaporation of the organic extract affords an oil which is choromatographed on silica gel (125 g), eluting with 20% ether-hexane. Evaporation of the eluents affords an oil which crystallized on standing. Recrystallization from hexane gives 2-chloro-1,3-dimethoxybenzene, mp 62°-64° C.

reactant | 1,3-dimethoxybenzene | 13.8 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | n-butyllithium | 2.6M, 40 ml | C(CCC)[Li]
reactant | N-chlorosuccinimide | 13.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | 2-chloro-1,3-dimethoxybenzene | ClC1=C(C=CC=C1OC)OC | C8H9ClO2
